data/mechanisms/records/IMS8-EQT8.2j.json
{"mechanism_id": "IMS8-EQT8.2j", "species": [{"species_id": "chloropentane_radical_cation", "mapped_smiles": "[CH2:1]([Cl+:6])[CH2:2][CH2:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclic_chloronium", "mapped_smiles": "[Cl+:6]1[CH2:1][CH2:2][CH2:3][CH2:4]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:5]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["chloropentane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["cyclic_chloronium", "methyl_radical"]}], "steps": [{"step_id": "step_rd_displacement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [4, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [4, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_displacement", "support_type": "textbook_proposed", "locator": {"page": 166, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3"}, "confidence": 0.75, "curator_note": "Table 8.2, row 8: OE+. radical-site displacement 'rd' with RING formation. The Cl+. radical site attacks a distal carbon, forming a cyclic (5-membered) chloronium ion and expelling R.. Book draws 2 arcs -- the Cl-radical hook (odd electron -> forming the new Cl-C bond) and the big arc pulling one C-R electron into that new bond; the third hook (the other C-R electron -> departing R.) is an implicit homolysis hook, not drawn. All 3 encoded. Generic ((CH2)3, CH2R); instantiated R=CH3 (1-chloropentane) -> tetramethylene-chloronium C4H8Cl+ (m/z 91) + .CH3. No m/z / intensity printed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 106.0544, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_chloronium", "species_id": "cyclic_chloronium", "step_id": "step_rd_displacement", "observed_mz": 91.0309, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
